2149-04-11 10:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2149-4-10**] 03:32 PM
 TRAUMA LINE - START [**2149-4-10**] 04:00 PM
   Left Intra-osseous line placed in field by EMS
 CORDIS/INTRODUCER - START [**2149-4-10**] 04:26 PM
 MULTI LUMEN - START [**2149-4-10**] 09:30 PM
 PAN CULTURE - At [**2149-4-10**] 11:45 PM
 ULTRASOUND - At [**2149-4-11**] 12:00 AM
   right IJ secondary to hematoma at site of line
 EKG - At [**2149-4-11**] 12:00 AM
   reviewed by CCU team
 TRAUMA LINE - STOP [**2149-4-11**] 12:11 AM
   Left Intra-osseous line placed in field by EMS
 FEVER - 102.8
F - [**2149-4-11**] 12:00 AM
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-11**] 02:30 AM
   Cefipime - [**2149-4-11**] 03:30 AM
   Metronidazole - [**2149-4-11**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 12 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2149-4-10**] 09:45 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-11**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.7
C (99.8
   HR: 84 (78 - 121) bpm
   BP: 113/58(68) {78/15(35) - 126/83(87)} mmHg
   RR: 20 (18 - 121) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.4 kg (admission): 122.4 kg
    CVP: 12 (10 - 12)mmHg
   Total In:
                                                                    603 mL
                                                                  3,408 mL
   PO:
   TF:
   IVF:
                                                                    543 mL
                                                                  3,348 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                  1,615 mL
   Urine:
                                                                    540 mL
                                                                  1,190 mL
   NG:
                                                                    425 mL
   Stool:
   Drains:
   Balance:
                                                                     63 mL
                                                                  1,793 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 323 (323 - 323) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.40/39/108/25/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   171 K/uL
   13.9 g/dL
   133 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   10 mg/dL
   105 mEq/L
   139 mEq/L
   42.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2149-4-10**]  05:24 PM
                             [**2149-4-10**]  10:17 PM
                             [**2149-4-11**]  12:49 AM
                             [**2149-4-11**]  04:24 AM
                             [**2149-4-11**]  06:14 AM
   WBC
   10.9
   11.2
   Hct
   44.0
   42.1
   Plt
   208
   171
   Cr
   0.7
   0.8
   TropT
   1.20
   1.02
   0.56
   TCO2
   25
   25
   Glucose
   120
   133
   Other labs: PT / PTT / INR:12.8/23.4/1.1, CK / CKMB /
   Troponin-T:425/7/0.56, ALT / AST:58/90, Alk Phos / T Bili:62/2.3,
   Differential-Neuts:76.4 %, Lymph:12.1 %, Mono:9.3 %, Eos:1.9 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.6 g/dL, LDH:488 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: in summary a 63 yo woman with h/o lupus and
   hypothyroidism who presents with syncope in the setting of bradycardia.
   .
   # Syncope
   Likely due to bradycardia. She has been presyncopal numerous times
   recently, suggestive of intermittent heart block. EKG significant for
   large voltages and prolonged QRS, normal PR, suggesting Hisian disease.
   EP had planned to place a pacer, but the patient has become febrile,
   hypotensive. Temp. tranvenous pacing has not been needed since arrival.
   EP will hold off on ICD given fever, hypotension.
   - keep temporary pacing wire until pacemaker
   - F/U Echo to evaluate myocardium and for region wall motion
   - Continue to appreciate EP input
   - Monitor on tele
   - Serial EKGs
   - Avoid nodal blocking agents
   - f/u TSH, free T4 to r/o hypothyroid
   .
   # Respiratory failure
   Intubated given hypoxia and need to place lines. Hypoxic respiratory
   failure may have led to bradycardia and hypotension, but cause unclear.
   [**Name2 (NI) 4071**] embolism would account for these findings, but by Well's Score
   ~ 4.5 : PE -> hypotension, tachycardial -> hypoxia, hypoxic bradycardia
   (need for pacing) -> continuing hypotension, tachycardia, fever,
   hypoxia. Alternatively, primary cardiac process, including Hisian
   disease would account for respiratory failure, hypotension, hypoxia.
   Sepsis and hypotension possible, but would not fit well with paroxysmal
   presyncope. Endocarditis needs to be considered.
   - Follow blood cultures
   - Echo to examine right heart function
   - If increased suspicion of PE, consider LENIs , CTA
   - Follow chest radiographically
   - plan for extubation with trial of pressure support and ABG
   .
   # Hypotension
   In context of fever, mild leukocytosis, have to consider sepsis. Other
   causes may be reduced CO, PE. Sites of infection causing this
   presentation might include endo/myocarditis, bacteremia, aspiration
   pneumonia/itis. Also consider adrenal insufficiency
   - Follow CVP and keep around 16
   - Give fluids to support CVP
   - Obtain mixed venous blood gas and simultaneous arterial blood gas
   - Wean propofol as possible, even if partially replacing with Versed or
   dexmetomidine
   - Try to wean dopamine or replace with another pressor.
   - Maintain urine output
   -  Stress dose steroids (100 Q 8  hydrocortisone) and plan to taper
   over 7 days
   .
   # Leukocytosis/fever
   Neutrophilia and leukocytosis, fever, hypotension. Together concerning
   for sepsis/occult infection. Could be Gram negative sepsis.
   Recrudescence of lymphoma seems unlikely. PE, endocarditis, etc
   - Consider Port in place for 17 years
   - Consider endocarditis given conduction abnormalities
   - F/u blood cultures and repeat
   - Culture tip of subclavian line - remove ASAP
   - Continue agressive fluid therapy
   - Continue vanc/cefepime/flagyl
   .
   # Enzyme leak
   LDH could be cardiac, CK partially cardiac and TropT obviously so.
   TropT and CKMB trending down now, so we attribute this to pacing in
   context of hypotension and hypoxia.
   - Follow
   .
   # S/p fall
   C-spine and head clear per OSH read.
   .
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive.
   .
   # FEN: None.
   .
   # ACCESS: PIV, RIJ CVL, R SCCVL (just temp pacer wires), lost A-line
   .
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with oxycodone PO
   -Bowel regimen with colace and senna
   - reflux prophylaxis- famotidine
   .
   # CODE full - confirmed with husband
   .
   # COMM: [**Name (NI) **] and husband, [**Name (NI) 118**]
   .
   # DISPO: CCU for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART BLOCK, COMPLETE (CHB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2149-4-10**] 04:26 PM
   20 Gauge - [**2149-4-10**] 04:27 PM
   Multi Lumen - [**2149-4-10**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-04-12 07:05:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2149-4-11**] 05:00 PM
 PA CATHETER - START [**2149-4-11**] 05:00 PM
   - had swan ganz placed in IJ
   - attempted to wean down dobutamine (but still going)
   - gave 250 cc NS bolus since urine slowing down and looking
   concentrated and SBP in 80s
   - low grade temps continue
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-12**] 12:00 AM
   Metronidazole - [**2149-4-12**] 04:06 AM
   Cefipime - [**2149-4-12**] 05:07 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 2 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-12**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 82 (74 - 97) bpm
   BP: 99/51(63) {76/20(35) - 189/170(174)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.4 kg (admission): 122.4 kg
   Height: 63 Inch
   CVP: 12 (7 - 13)mmHg
   PAP: (37 mmHg) / (20 mmHg)
   PCWP: 12 (12 - 22) mmHg
   CO/CI (Fick): (10.3 L/min) / (4.7 L/min/m2)
   Mixed Venous O2% Sat: 68 - 90
   Total In:
                                                                  5,112 mL
                                                                  1,102 mL
   PO:
   TF:
   IVF:
                                                                  4,922 mL
                                                                    942 mL
   Blood products:
   Total out:
                                                                  4,145 mL
                                                                    245 mL
   Urine:
                                                                  3,470 mL
                                                                    245 mL
   NG:
                                                                    675 mL
   Stool:
   Drains:
   Balance:
                                                                    967 mL
                                                                    857 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 394 (323 - 444) mL
   PS : 16 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 245
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 8.7 L/min
   Physical Examination
   General: morbidly obese woman
   HEENT: Pupils symmetrically and markedly dilated, ears clear, tube in
   place, cannot inspect OP
   Neck: Hematoma and echymosis on right lateral neck (later
 swan ganz
   in place in right IJ), very thick neck, cannot evaluate JVP.
   Cardiac: Difficult to auscultate due to ventilator and habitus,
   regular.
   Lungs: Symmetric air entry anteriorly with some transmitted upper
   airway sound and ventilator noise.
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm
   Skin: Echymosis on neck, [**Female First Name (un) 444**] under panus and breasts.
   Pulses: Peripheral pulses barely palpable, but ulnar and radial
   arteries were Dopplerable bilaterally.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   118 K/uL
   206 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.1 mEq/L
   9 mg/dL
   112 mEq/L
   141 mEq/L
   40
   11.1 K/uL
        [image002.jpg]
   Ca 6.3
   Mg 1.6
   Phos 3.8
   ALT 38
   AST 55
   AP 40
   LDH 403
   T bili 2.4
                             [**2149-4-10**]  05:24 PM
                             [**2149-4-10**]  10:17 PM
                             [**2149-4-11**]  12:49 AM
                             [**2149-4-11**]  04:24 AM
                             [**2149-4-11**]  06:14 AM
                             [**2149-4-11**]  05:59 PM
                             [**2149-4-12**]  03:56 AM
                             [**2149-4-12**]  04:20 AM
   WBC
   10.9
   11.2
   8.9
   11.1
   Hct
   44.0
   42.1
   40.0
   32.4
   40
   Plt
   [**Telephone/Fax (3) 11732**]18
   Cr
   0.7
   0.8
   0.7
   TropT
   1.20
   1.02
   0.56
   TCO2
   25
   25
   Glucose
   120
   133
   206
   Other labs: PT / PTT / INR:12.8/23.4/1.1, CK / CKMB /
   Troponin-T:425/7/0.56, ALT / AST:38/55, Alk Phos / T Bili:40/2.4,
   Differential-Neuts:76.4 %, Lymph:12.1 %, Mono:9.3 %, Eos:1.9 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.6 g/dL, LDH:403 IU/L, Ca++:6.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.8 mg/dL
   CXR [**2149-4-11**] PRELIM read
   right CVL replaced with PA cath, with appears to overly the origin of
   the pulm
   outflow tract. ETT, picc, l;eft subclavian line and NG unchanged. no
   PTX.
   extensive left base opacity is unchanged. a underlying penumonia not
   excluded.
   Echo (not opening)
   Urine culture
 negative
   Sputum culture
 negative
   Blood culture - pending
   Assessment and Plan
   ASSESSMENT AND PLAN: in summary a 63 yo woman with h/o lupus and
   hypothyroidism who presented with syncope in the setting of
   bradycardia.
   .
   # Syncope
   Likely due to bradycardia. She has been presyncopal numerous times
   recently, suggestive of intermittent heart block. EKG significant for
   large voltages and prolonged QRS, normal PR, suggesting Hisian disease.
   EP had planned to place a pacer, but the patient has become febrile and
   hypotensive. Temp. tranvenous pacing has not been needed since arrival
   although there have been intermittent pacer spikes on tele. EP will
   hold off on ICD given fever, hypotension.
   - maintain temporary pacing wire and subclavian line until pt gets
   pacemaker
   - f/u Echo to evaluate myocardium and for region wall motion
   - Continue to appreciate EP input
   - Monitor on tele
   - Serial EKGs
   - Avoid nodal blocking agents
   .
   # Respiratory failure
   Intubated given hypoxia and need to place lines.  Unclear etiology of
   hypoxia, but despite negative sputum favor respiratory infection given
   ongoing temperatures, CXR cant rule out, and septic physiology with
   swan Ganz.  However, primary cardiac process, including Hisian disease
   could account for respiratory failure, hypotension, hypoxia.
   Endocarditis needs to be considered given old hardware, arrhythmia, and
   low grade temp.
   - Follow blood cultures
   - Consider echo to examine right heart function and look for evidence
   of endocarditis if no other sources identified
   - Follow chest radiographically
   - consider CT chest to r/o pneumonia
   .
   # Hypotension
   In context of fever, mild leukocytosis, considering sepsis. Swan Ganz
   demonstrates increased calculated CO and decreased SVR c/w sepsis.
   Sites of infection causing this presentation might include
   endo/myocarditis, bacteremia, aspiration pneumonia/itis.  Required
   fluid bolus 250 cc overnight as urine was looking concentrated and SBP
   in 80s.
   - Follow CVP and keep around 16
   - Give fluids to support CVP
   - Obtain mixed venous blood gas and simultaneous arterial blood gas
   - Wean propofol as possible, use morphine for sedation/pain control
   - Try to wean dopamine and replace with vasopressin +/- Epinephrine if
   needed
   - Maintain urine output
   - continue vanc/cefepime, consider broadening coverage
   .
   # Leukocytosis
   Neutrophilia and leukocytosis, fever, hypotension. Together concerning
   for sepsis/occult infection. Could well be Gram negative sepsis.
   Recrudescence of lymphoma seems unlikely.
   - Consider Port in place for 17 years
   - Consider endocarditis given conduction abnormalities
   - F/u blood cultures and repeat
   - Continue agressive fluid therapy
   .
   # Enzyme leak
   LDH could be cardiac, CK partially cardiac and TropT obviously so.
   TropT and CKMB trending down now, so we attribute this to pacing in
   context of hypotension and hypoxia.
   - Follow
   .
   # Elevated t bili: Do not have a source for sepsis.  Biliary infection
   also possible.
   - consider RUQ U/S versus CT abdomen if goes for CT scan
   - f/u indirect bili
   - hemolysis labs
   - add PTT, PT
   .
   # Anemia: Hct drop from 40 to 32.  Elevated direct bili and decreased
   haptoglobin.  Consider DIC in septic picture.
   - f/u fibrinogen, fdp, and smear
   .
   # thrombocytopenia: Consider consumption from DIC
   - continue to trend
   .
   # S/p fall
   C-spine and head clear per OSH read.
   .
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive.
   .
   # FEN: None.
   .
   # ACCESS: PIV, RIJ CVL, R SCCVL (just temp pacer wires), lost A-line
   .
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with oxycodone PO
   -Bowel regimen with colace and senna
   .
   # CODE full - confirmed with husband
   .
   # COMM: [**Name (NI) **] and husband, [**Name (NI) 118**]
   .
   # DISPO: CCU for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART BLOCK, COMPLETE (CHB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2149-4-10**] 04:26 PM
   PA Catheter - [**2149-4-11**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-13**] 08:28 ------

2149-04-13 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2149-4-12**] 09:30 PM
 URINE CULTURE - At [**2149-4-12**] 09:54 PM
   UA/UCx
   [**4-12**]
   - multiple attempts at arterial lines failed
   - pressors changed from dopamine to vasopressin/levophed, then levophed
   weaned off
   - sedation changed from versed/propofol to versed/morphine
   - episode of agitation in afternoon, versed increased to 6
   - worsening urine output, unable to get reliable numbers off of Swan,
   gave IV fluids with improved urine ouput
   - obtained RUQ US and then CT torso to eval for source of infection
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-13**] 01:00 AM
   Cefipime - [**2149-4-13**] 04:20 AM
   Metronidazole - [**2149-4-13**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Morphine Sulfate - 5 mg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-12**] 07:45 PM
   Midazolam (Versed) - [**2149-4-12**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-13**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-13**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 59 (58 - 82) bpm
   BP: 100/43(58) {77/29(43) - 212/193(197)} mmHg
   RR: 16 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 126.6 kg (admission): 122.4 kg
   Height: 63 Inch
    CVP: 20 (13 - 26)mmHg
   PAP: (42 mmHg) / (26 mmHg)
   PCWP: 15 (15 - 15) mmHg
   CO/CI (Fick): (7.3 L/min) / (3.3 L/min/m2)
   Mixed Venous O2% Sat: 72 - 84
   Total In:
                                                                  4,856 mL
                                                                  1,545 mL
   PO:
   TF:
   IVF:
                                                                  3,716 mL
                                                                  1,545 mL
   Blood products:
   Total out:
                                                                    568 mL
                                                                    510 mL
   Urine:
                                                                    563 mL
                                                                    380 mL
   NG:
                                                                      5 mL
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                  4,288 mL
                                                                  1,035 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 177
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35.2 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/38/99.[**Numeric Identifier 433**]/19/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General: morbidly obese woman
   HEENT: Pupils symmetrically and markedly dilated, ears clear, tube in
   place, cannot inspect OP
   Neck: Hematoma and echymosis on right lateral neck (later
 swan ganz
   in place in right IJ), very thick neck, cannot evaluate JVP.
   Cardiac: Difficult to auscultate due to ventilator and habitus,
   regular.
   Lungs: Symmetric air entry anteriorly with some transmitted upper
   airway sound and ventilator noise.
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm
   Skin: Echymosis on neck, [**Female First Name (un) 444**] under panus and breasts.
   Pulses: Peripheral pulses barely palpable in UEs, but ulnar and radial
   arteries were Dopplerable bilaterally.Good dorsalis pedis pulses.
   Labs / Radiology
   113 K/uL
   11.2 g/dL
   180 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.4 mEq/L
   15 mg/dL
   111 mEq/L
   139 mEq/L
   34.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2149-4-11**]  12:49 AM
                             [**2149-4-11**]  04:24 AM
                             [**2149-4-11**]  06:14 AM
                             [**2149-4-11**]  05:59 PM
                             [**2149-4-12**]  03:56 AM
                             [**2149-4-12**]  04:20 AM
                             [**2149-4-12**]  08:37 AM
                             [**2149-4-12**]  08:37 PM
                             [**2149-4-13**]  01:43 AM
                             [**2149-4-13**]  05:00 AM
   WBC
   11.2
   8.9
   11.1
   15.9
   8.7
   Hct
   42.1
   40.0
   32.4
   40
   38.8
   34.1
   Plt
   171
   388
   118
   148
   113
   Cr
   0.8
   0.7
   0.7
   0.7
   0.6
   TropT
   1.02
   0.56
   TCO2
   25
   24
   Glucose
   133
   206
   140
   180
   Other labs: PT / PTT / INR:14.0/29.2/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/51, Alk Phos / T Bili:44/1.8,
   Amylase / Lipase:53/14, Differential-Neuts:76.4 %, Lymph:12.1 %,
   Mono:9.3 %, Eos:1.9 %, Lactic Acid:2.7 mmol/L, Albumin:2.1 g/dL,
   LDH:536 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: .
   Imaging: CT ABD PELVIS [**4-12**]
   PFI: Low lung volumes. Left basilar consolidation with air bronchograms
   may represent atelectasis, though superimposed pneumonia is certainly
   not excluded. There is no effusion. Supportive and monitoring devices
   are in adequate position. The main pulmonary artery is slightly
   prominent,
   suggesting possible pulmonary hypertension. In the abdomen, the liver
   is markedly low in attenuation, compatible with fatty infiltration.
   There is also fatty involution of the pancreas. There is no acute
   intra-abdominal
   process, including no abscess or fluid collection. There is no free air
   or
   free fluid. There is sigmoid diverticulosis without diverticulitis.
   Foley catheter is seen in the bladder.
   CT CHEST [**4-12**]
   PFI: Low lung volumes. Left basilar consolidation with air bronchograms
   may represent atelectasis, though superimposed pneumonia is certainly
   not excluded. There is no effusion. Supportive and monitoring devices
   are in adequate position. The main pulmonary artery is slightly
   prominent,
   suggesting possible pulmonary hypertension. In the abdomen, the liver
   is markedly low in attenuation, compatible with fatty infiltration.
   There is also fatty involution of the pancreas. There is no acute
   intra-abdominal
   process, including no abscess or fluid collection. There is no free air
   or
   free fluid. There is sigmoid diverticulosis without diverticulitis.
   Foley catheter is seen in the bladder.
   Microbiology: [**2149-4-12**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2149-4-12**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2149-4-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-4-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-4-10**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2149-4-10**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2149-4-10**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2149-4-10**]  URINE URINE CULTURE-FINAL INPATIENT
   ECG: .
   ASSESSMENT AND PLAN: in summary a 63 yo woman with h/o lupus and
   hypothyroidism who presented with syncope in the setting of
   bradycardia.
   .
   # Syncope
   Likely due to bradycardia. She has been presyncopal numerous times
   recently, suggestive of intermittent heart block. EKG significant for
   large voltages and prolonged QRS, normal PR, suggesting Hisian disease.
   EP had planned to place a pacer, but she became febrile and
   hypotensive. Temp. tranvenous pacing has not been needed since arrival
   although there have been intermittent pacer spikes on tele. EP will
   hold off on ICD given fever, hypotension.
   - maintain temporary pacing wire and subclavian line until pt gets
   pacemaker
   - Continue to appreciate EP input
   - Monitor on tele
   - Serial EKGs
   - Avoid nodal blocking agents
   .
   # Respiratory failure
   Intubated given hypoxia and need to place lines.  Unclear etiology of
   hypoxia, but despite negative sputum favor respiratory infection given
   ongoing temperatures, CXR cant rule out, and septic physiology with
   swan Ganz.  However, primary cardiac process, including Hisian disease
   could account for respiratory failure, hypotension, hypoxia.
   Endocarditis needs to be considered given old hardware, arrhythmia, and
   low grade temp.
   - Follow blood cultures
   - Consider echo to examine right heart function and look for evidence
   of endocarditis if no other sources identified
   - Follow chest radiographically
   - consider CT chest to r/o pneumonia
   .
   # Hypotension
   In context of fever, mild leukocytosis, considering sepsis. Swan Ganz
   demonstrates increased calculated CO and decreased SVR c/w sepsis.
   Sites of infection causing this presentation might include
   endo/myocarditis, bacteremia, aspiration pneumonia/itis.  Required
   fluid bolus 250 cc overnight as urine was looking concentrated and SBP
   in 80s. Autonomic neuropathy is possible, but less likely
 sympathetic
   autonomic neuropathy would account for bradycardia, hypotension, septic
   physiology. Given negative work-up for infection so far, add mycolytic
   bottles, repeat blood culture, ESR, CRP, ANCA, C3, C4. She is on
   vancomycin and cefepime, and WBC has lowered. No fever recently.
   - Follow CVP and keep around 16
   - Give fluids to support CVP
   - Obtain mixed venous blood gas and simultaneous arterial blood gas
   - Wean propofol as possible, use morphine for sedation/pain control
   - Continue vasopressin (have stopped dopamine)
   - continue vanc/cefepime, consider broadening coverage if further
   suspicion of infection.
   .
   # Leukocytosis
   Resolving now. Presently on vancomycin and cefepime. Neutrophilia and
   leukocytosis, fever, hypotension. Together concerning for sepsis/occult
   infection. Could well be Gram negative sepsis. Recrudescence of
   lymphoma seems unlikely.
   - Consider Port in place for 17 years
   - Consider endocarditis given conduction abnormalities
   - F/u blood cultures and repeat with mycolytic bottles
   - Continue agressive fluid therapy
   .
   # Enzyme leak
   LDH could be cardiac, CK partially cardiac and TropT obviously so.
   TropT and CKMB trending down now, so we attribute this to pacing in
   context of hypotension and hypoxia.
   - Follow
   # Elevated t bili: Do not have a source for sepsis.  Biliary infection
   also possible. Most likely secondary to hemolysis within hematoma in
   neck.
   # Anemia: Hct drop from 40 to 32.  Elevated direct bili and decreased
   haptoglobin.  Consider DIC in septic picture. Most likely dilutional.
   Haptoglobin low in context of neck hematoma.
   - f/u fibrinogen, fdp, and smear
   .
   # thrombocytopenia: Consider consumption from DIC
   - continue to trend
   .
   # S/p fall
   C-spine and head clear per OSH read.
   .
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive.
   - ESR, CRP, complement
   .
   # FEN: None.
   .
   # ACCESS: PIV, RIJ CVL, R SCCVL (just temp pacer wires), lost A-line
   .
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with oxycodone PO
   -Bowel regimen with colace and senna
   .
   # CODE full - confirmed with husband
   .
   # COMM: [**Name (NI) **] and husband, [**Name (NI) 118**]
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2149-4-10**] 04:26 PM
   PA Catheter - [**2149-4-11**] 05:00 PM
   20 Gauge - [**2149-4-12**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Renal Failure
     UOP has been very low. [**Month (only) 11**] have developed ATN in context of
   hypotension. Also may be intravascularly depleted given malnutritive
   state here and already low albumin (INR elevated, both consistent with
   liver disease
 fatty
 with impaired synthetic function).
   - Empiric fluid bolus
   - Urine microscopy, concern for ATN
   - Nutrition to improve albumin
   ------ Protected Section Addendum Entered By:[**Name (NI) 10376**] [**Last Name (NamePattern1) 10340**], MD
   on:[**2149-4-13**] 13:27 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s).
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-14**] 13:23 ------

2149-04-14 06:49:00 Physician Resident Progress Note
Chief Complaint: Syncope in the context of bradycardic hypotensive
   episode.
   24 Hour Events:
   - gave 2L NS bolus for low urine output, given additional LR overnight
   - started tube feeds
   - spun urine with renal- many RBCs, no muddy-brown casts
   - PM electrolytes showed no decline in renal function
   - pressure support trial generally well-tolerated
   -morphine at 8, Versed at 6, no pressors, pressure elevated to 158/71
   later this a.m
   - Pharmacy noted omission of 60 mg fluoxetine on med list.
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-14**] 01:05 AM
   Cefipime - [**2149-4-14**] 03:40 AM
   Metronidazole - [**2149-4-14**] 05:00 AM
   Infusions:
   Morphine Sulfate - 6 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-13**] 04:00 PM
   Famotidine (Pepcid) - [**2149-4-13**] 08:00 PM
   Midazolam (Versed) - [**2149-4-14**] 04:15 AM
   Morphine Sulfate - [**2149-4-14**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-14**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 58 (58 - 85) bpm
   BP: 139/73(89) {104/43(58) - 139/99(104)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.6 kg (admission): 122.4 kg
   Height: 63 Inch
    CVP: 30 (14 - 30)mmHg
   PAP: (79 mmHg) / (46 mmHg)
   PCWP: 15 (15 - 15) mmHg
   CO/CI (Fick): (10.3 L/min) / (4.7 L/min/m2)
   Mixed Venous O2% Sat: 57 - 77
   Total In:
                                                                  5,464 mL
                                                                  1,185 mL
   PO:
   TF:
                                                                    180 mL
                                                                    156 mL
   IVF:
                                                                  4,964 mL
                                                                  1,030 mL
   Blood products:
   Total out:
                                                                    870 mL
                                                                    920 mL
   Urine:
                                                                    740 mL
                                                                    920 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                  4,594 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 12 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 175
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 98%
   ABG: ///21/
   Ve: 8.5 L/min
   Physical Examination
   General: morbidly obese woman
   HEENT: Pupils symmetrically and markedly dilated, ears clear, tube in
   place, cannot inspect OP
   Neck: Hematoma and echymosis on right lateral neck (later
 swan ganz
   in place in right IJ), very thick neck, cannot evaluate JVP.
   Cardiac: Difficult to auscultate due to ventilator and habitus,
   regular.
   Lungs: Symmetric air entry anteriorly with some transmitted upper
   airway sound and ventilator noise.
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm
   Skin: Echymosis on neck, [**Female First Name (un) 444**] under panus and breasts.
   Pulses: Peripheral pulses barely palpable in UEs, but ulnar and radial
   arteries were Dopplerable bilaterally.Good dorsalis pedis pulses.
   Labs / Radiology
   113 K/uL
   11.1 g/dL
   158 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   16 mg/dL
   111 mEq/L
   139 mEq/L
   34.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2149-4-11**]  04:24 AM
                             [**2149-4-11**]  06:14 AM
                             [**2149-4-11**]  05:59 PM
                             [**2149-4-12**]  03:56 AM
                             [**2149-4-12**]  04:20 AM
                             [**2149-4-12**]  08:37 AM
                             [**2149-4-12**]  08:37 PM
                             [**2149-4-13**]  01:43 AM
                             [**2149-4-13**]  05:00 AM
                             [**2149-4-13**]  05:00 PM
   WBC
   11.2
   8.9
   11.1
   15.9
   8.7
   Hct
   42.1
   40.0
   32.4
   40
   38.8
   34.1
   Plt
   171
   388
   118
   148
   113
   Cr
   0.8
   0.7
   0.7
   0.7
   0.6
   0.6
   TropT
   0.56
   TCO2
   25
   24
   Glucose
   133
   206
   140
   180
   158
   Other labs: PT / PTT / INR:14.0/29.2/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/51, Alk Phos / T Bili:44/1.8,
   Amylase / Lipase:53/14, Differential-Neuts:76.4 %, Lymph:12.1 %,
   Mono:9.3 %, Eos:1.9 %, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL,
   LDH:536 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: No.
   Imaging: No new.
   Microbiology: No growth. Numerous pending.
   ECG: No new.
   Assessment and Plan
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia.
   # Syncope
   Likely due to bradycardia. She has been presyncopal numerous times
   recently, suggestive of intermittent heart block. EKG significant for
   large voltages and prolonged QRS, normal PR, suggesting Hisian disease.
   EP had planned to place a pacer, but she became febrile and
   hypotensive. Temp. tranvenous pacing has not been needed since arrival
   although there have been intermittent pacer spikes on tele. EP will
   hold off on ICD given fever, hypotension.  Hypothyroidism rules out by
   labs, toxicity by basic tox screen (at least partially ruled out),
   Rickettsial unlikely based on return of sinus rhythm without
   bradycardia.
   - maintain temporary pacing wire and subclavian line until pt gets
   pacemaker (check in today with EP to see if can be removed)
   - Continue to appreciate EP input
   - Monitor on tele
   - Avoid nodal blocking agents
   .
   # Respiratory failure
   Intubated given hypoxia and need to place lines. Has been difficult to
   manage respiratory failure
 by giving enough sedation to prevent
   movement, have also been suppressing respiration. No evidence of
   infection yet. Likely OSA airway and obesity respiratory failure making
   respiratory depression during sedation much greater.
   - Follow cultures
   - Retry PSV today with increased PEEP, follow gas.
   - Attempt to wean and extubate as soon as possible
 will likely need
   BiPAP or CPAP after extubation given anatomical considerations.
   .
   # Hypotension
   Resolved now. Actually slightly hypertensive. Likely was very
   pre-renal/depleted and pressure likely high because of steroid stress
   dose. Septic physiology no longer present, but given improvement on
   [**Last Name (LF) **], [**First Name3 (LF) 116**] continue [**First Name3 (LF) **] for course.
   - Follow CVP and keep around 16 (this probe is not likely [**Location (un) 103**]
   accurately)
   - Give fluids to support CVP
   - Obtain mixed venous blood gas and simultaneous arterial blood gas
   - Wean sedation as possible given above
   - continue vanc/cefepime/flagyl, consider broadening coverage if
   further suspicion of infection.
   .
   # Leukocytosis
   Resolving now. Presently on vancomycin and cefepime. Neutrophilia and
   leukocytosis, fever, hypotension. Together concerning for sepsis/occult
   infection. Could well be Gram negative sepsis. Recrudescence of
   lymphoma seems unlikely. Less suspicious for infection now, but doing
   well and as a team decided to continue [**Location (un) **] for course of 7 days.
   - Consider Port in place for 17 years
   - Consider endocarditis given conduction abnormalities
   - F/u blood cultures and repeat with mycolytic bottles
   - Continue agressive fluid therapy
   .
   # Enzyme leak
   LDH could be cardiac, CK partially cardiac and TropT obviously so.
   TropT and CKMB trending down now, so we attribute this to pacing in
   context of hypotension and hypoxia.
   - Follow
   # Elevated t bili: Do not have a source for sepsis.  Biliary infection
   also possible. Most likely secondary to hemolysis within hematoma in
   neck.
   # Anemia: Hct drop from 40 to 32.  Elevated direct bili and decreased
   haptoglobin.  Consider DIC in septic picture. Most likely dilutional.
   Haptoglobin low in context of neck hematoma.
   - f/u fibrinogen, fdp, and smear
   .
   # thrombocytopenia: Consider consumption from DIC
   - continue to trend
   .
   # S/p fall
   C-spine and head clear per OSH read.
   .
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive.
   - [**Doctor First Name **], ESR, CRP, complement
   .
   # FEN: None.
   .
   # ACCESS: PIV, RIJ CVL, R SCCVL (just temp pacer wires), lost A-line
   .
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with oxycodone PO
   -Bowel regimen with colace and senna
   .
   # CODE full - confirmed with husband
   .
   # COMM: [**Name (NI) **] and husband, [**Name (NI) 118**]
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Ensure (Full) - [**2149-4-13**] 01:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2149-4-10**] 04:26 PM
   PA Catheter - [**2149-4-11**] 05:00 PM
   20 Gauge - [**2149-4-12**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s).
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-14**] 13:24 ------

2149-04-15 07:28:00 Physician Resident Progress Note
Chief Complaint: Syncope in context of bradycardia and hypotension.
   24 Hour Events:
   In attempt to decrease agitation and promote extubation:
   - decreased hydrocortiasone to 50 mg Q 8 (cut in half)
   - started standing tylenol and toradol
   - started Haldol 5 mg IV Q 6 PRN --> changed to 5 mg PO Q4 PRN
   - talked with pain consult team (need to ask to come see tomorrow)
   - restarted prozac (60 mg)
   - pt had agitation overnight and was given haldol with decent effect
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Sedated
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-14**] 11:00 PM
   Metronidazole - [**2149-4-15**] 04:30 AM
   Cefipime - [**2149-4-15**] 05:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-14**] 08:00 PM
   Midazolam (Versed) - [**2149-4-15**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2149-4-15**] 12:30 AM
   Haloperidol (Haldol) - [**2149-4-15**] 03:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-15**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 65 (51 - 92) bpm
   BP: 158/79(98) {115/61(73) - 170/94(113)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.5 kg (admission): 122.4 kg
   Height: 63 Inch
    CVP: 24 (19 - 24)mmHg
   PAP: (54 mmHg) / (29 mmHg)
   CO/CI (Fick): (5.3 L/min) / (2.4 L/min/m2)
   Mixed Venous O2% Sat: 61 - 61
   Total In:
                                                                  3,711 mL
                                                                    868 mL
   PO:
   TF:
                                                                  1,134 mL
                                                                    436 mL
   IVF:
                                                                  2,287 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    120 mL
   Urine:
                                                                  1,815 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,896 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 111 (111 - 111) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 99%
   ABG: ///23/
   Ve: 9.3 L/min
   Physical Examination
   General: morbidly obese woman
   HEENT: Pupils symmetrically and markedly dilated, ears clear, tube in
   place, cannot inspect OP
   Neck: Hematoma and echymosis on right lateral neck (later
 swan ganz
   in place in right IJ), very thick neck, cannot evaluate JVP.
   Cardiac: Difficult to auscultate due to ventilator and habitus,
   regular.
   Lungs: Symmetric air entry anteriorly with some transmitted upper
   airway sound and ventilator noise.
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm
   Skin: Echymosis on neck, [**Female First Name (un) 444**] under panus and breasts.
   Pulses: Peripheral pulses barely palpable in UEs, but ulnar and radial
   arteries were Dopplerable bilaterally.Good dorsalis pedis pulses.
   Neurologic: Able to answer simple questions appropriately. Very
   sedated. Little spontaneous movement. Opens eyes to voice. CN II, III,
   IV, VI intact. Difficult to evaluate others.
   Labs / Radiology
   128 K/uL
   11.4 g/dL
   122 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   20 mg/dL
   111 mEq/L
   141 mEq/L
   35.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2149-4-11**]  05:59 PM
                             [**2149-4-12**]  03:56 AM
                             [**2149-4-12**]  04:20 AM
                             [**2149-4-12**]  08:37 AM
                             [**2149-4-12**]  08:37 PM
                             [**2149-4-13**]  01:43 AM
                             [**2149-4-13**]  05:00 AM
                             [**2149-4-13**]  05:00 PM
                             [**2149-4-14**]  06:04 AM
                             [**2149-4-15**]  05:39 AM
   WBC
   8.9
   11.1
   15.9
   8.7
   8.3
   7.8
   Hct
   40.0
   32.4
   40
   38.8
   34.1
   35.3
   35.3
   Plt
   388
   118
   148
   113
   108
   128
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.8
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 11777**]58
   122
   122
   Other labs: PT / PTT / INR:13.8/24.9/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:76.4 %, Lymph:12.1 %,
   Mono:9.3 %, Eos:1.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No recent (CXR [**4-13**] and CT [**4-12**])
   Microbiology: No growth.
   Assessment
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia.
   Plan
   # Syncope
   Likely due to bradycardia. She has been presyncopal numerous times
   recently, suggestive of intermittent heart block. EKG significant for
   large voltages and prolonged QRS, normal PR, suggesting Hisian disease.
   EP had planned to place a pacer, but she became febrile and
   hypotensive. Temp. tranvenous pacing has not been needed since arrival
   although there have been intermittent pacer spikes on tele. EP will
   hold off on ICD given fever, hypotension.  Hypothyroidism rules out by
   labs, toxicity by basic tox screen (at least partially ruled out),
   Rickettsial unlikely based on return of sinus rhythm without
   bradycardia.
   - maintain temporary pacing wire and subclavian line until pt gets
   pacemaker (check in today with EP to see if can be removed)
   - Continue to appreciate EP input
   - Monitor on tele
   - Avoid nodal blocking agents
   - Discuss with EP re pacer placement so we can move forward for
   extubation
   .
   # Respiratory failure
   Intubated given hypoxia and need to place lines. Has been difficult to
   manage respiratory failure
 by giving enough sedation to prevent
   movement, have also been suppressing respiration. No evidence of
   infection yet. Likely OSA airway and obesity respiratory failure making
   respiratory depression during sedation much greater.
   - Try precedex for sedation for EP procedure which will help with
   agitation and less likely hypotension
 later pharmacy thought
   post-procedure would be preferable (comment in tomorrow
s overnight
   events)
   - Follow cultures
   - Retry PSV daily today with increased PEEP, follow gas.
   - Will likely need BiPAP or CPAP after extubation given anatomical
   considerations.
   .
   # Delirium: Likely medication and ICU induced. Pancultures remain
   negative. Morphine excessively high when compared to her converted home
   regimen.
   - Controlling with haldol PRN
   - Try to wean versed and morphine
   - Tylenol and keorolac to reduce opioid requirement
   - Consider repeating cultures
   - Precedex instead of versed and morphine for sedation
   # Hypotension
   Resolved now. Actually slightly hypertensive. Likely was very
   pre-renal/depleted and pressure likely high because of steroid stress
   dose. Septic physiology no longer present, but given improvement on
   [**Last Name (LF) **], [**First Name3 (LF) 116**] continue [**First Name3 (LF) **] for course.
   - Follow CVP and keep around 16 (this probe is not likely [**Location (un) 103**]
   accurately)
   - Give fluids to support CVP
   - Obtain mixed venous blood gas and simultaneous arterial blood gas
   - Wean sedation as possible given above
   - continue vanc/cefepime/flagyl, consider broadening coverage if
   further suspicion of infection.
   .
   # Leukocytosis
   Resolving now. Presently on vancomycin and cefepime. Neutrophilia and
   leukocytosis, fever, hypotension. Together concerning for sepsis/occult
   infection. Could well be Gram negative sepsis. Recrudescence of
   lymphoma seems unlikely. Less suspicious for infection now, but doing
   well and as a team decided to continue [**Location (un) **] for course of 7 days.
   - Consider Port in place for 17 years
   - Consider endocarditis given conduction abnormalities
   - F/u blood cultures and repeat with mycolytic bottles
   - Continue agressive fluid therapy
   - Cultures have been negative to date
   .
   # Enzyme leak
   LDH could be cardiac, CK partially cardiac and TropT obviously so.
   TropT and CKMB trending down now, so we attribute this to pacing in
   context of hypotension and hypoxia.
   - Follow
   # Elevated t bili: Do not have a source for sepsis.  Biliary infection
   also possible. Most likely secondary to hemolysis within hematoma in
   neck.
   # Anemia: Hct drop from 40 to 32.  Elevated direct bili and decreased
   haptoglobin.  Consider DIC in septic picture. Most likely dilutional.
   Haptoglobin low in context of neck hematoma.
   - f/u fibrinogen, fdp, and smear
   .
   # thrombocytopenia: Consider consumption from DIC
   - continue to trend
   .
   # S/p fall
   C-spine and head clear per OSH read.
   .
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive.
   - [**Doctor First Name **], ESR, CRP, complement
   .
   # FEN: None.
   .
   # ACCESS: PIV, RIJ CVL, R SCCVL (just temp pacer wires), lost A-line
   .
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with oxycodone PO
   -Bowel regimen with colace and senna
   .
   # CODE full - confirmed with husband
   .
   # COMM: [**Name (NI) **] and husband, [**Name (NI) 118**]
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Ensure (Full) - [**2149-4-14**] 10:15 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2149-4-10**] 04:26 PM
   PA Catheter - [**2149-4-11**] 05:00 PM
 consider pulling PA line
   20 Gauge - [**2149-4-12**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10340**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-16**] 14:37 ------

2149-04-16 07:43:00 Physician Resident Progress Note
Chief Complaint: Bradycardic arrest with hypotension.
   24 Hour Events:
 EKG - At [**2149-4-15**] 08:27 AM
   [**4-15**] - [**4-16**]
   - Nursing does not believe pt has been adequeately sedated, have been
   using massive doses of morphine/versed to adequately sedate.
   Unfortunately, pt has been receiving max doses (max 30mg/day) of haldol
   prn and standing would exceed this.
   - D/w pharmacy best pharmacologic regimen for extubation (they
   consulted their ICU specialist):
      - Continue Haldol, morphine, Versed until after PPM placement
      - Afterward, continue sedation as above while arm in sling for 24h
      - Taper down versed in preparation for starting of Presedex
      - Turn off Versed and start Presedex infusion (without bolus at
   around 0.7 mcg/kg/hr, increasing to 1.4 as needed)
      - Presedex can be run for a few hours while other agents clear,
   perhaps 8 hours
      - Presedex can be turned off for extubation (clears rapidly)
   **d/w EP: Planned for third case tomorrow.
   **further decreased steroids to 25 mg hydrocort q8 hours
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-15**] 08:39 PM
   Metronidazole - [**2149-4-16**] 04:15 AM
   Cefipime - [**2149-4-16**] 04:16 AM
   Infusions:
   Morphine Sulfate - 8 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-15**] 08:32 AM
   Heparin Sodium (Prophylaxis) - [**2149-4-16**] 12:16 AM
   Midazolam (Versed) - [**2149-4-16**] 06:54 AM
   Morphine Sulfate - [**2149-4-16**] 06:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-16**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 57 (53 - 85) bpm
   BP: 139/73(89) {97/50(65) - 181/96(114)} mmHg
   RR: 16 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.5 kg (admission): 122.4 kg
   Height: 63 Inch
    CVP: 18 (12 - 37)mmHg
   PAP: (46 mmHg) / (24 mmHg)
   CO/CI (Fick): (7.3 L/min) / (3.3 L/min/m2)
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  2,749 mL
                                                                    557 mL
   PO:
   TF:
                                                                    870 mL
                                                                     10 mL
   IVF:
                                                                  1,444 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                    687 mL
                                                                    470 mL
   Urine:
                                                                    687 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,062 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 8.3 L/min
   Physical Examination
   General: morbidly obese woman
   HEENT: Pupils symmetrically and markedly dilated, ears clear, tube in
   place, cannot inspect OP
   Neck: Hematoma and echymosis on right lateral neck (later
 swan ganz
   in place in right IJ), very thick neck, cannot evaluate JVP.
   Cardiac: Difficult to auscultate due to ventilator and habitus,
   regular.
   Lungs: Symmetric air entry anteriorly with some transmitted upper
   airway sound and ventilator noise.
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm
   Skin: Echymosis on neck, [**Female First Name (un) 444**] under panus and breasts.
   Pulses: Peripheral pulses barely palpable in UEs, but ulnar and radial
   arteries were Dopplerable bilaterally.Good dorsalis pedis pulses.
   Neurologic: Able to answer simple questions appropriately. Very
   sedated. Little spontaneous movement. Opens eyes to voice. CN II, III,
   IV, VI intact. Difficult to evaluate others.
   Labs / Radiology
   155 K/uL
   11.3 g/dL
   106 mg/dL
   0.7 mg/dL
   26 mEq/L
    3.6 mEq/L
   19 mg/dL
   112 mEq/L
   143 mEq/L
   34.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2149-4-12**]  03:56 AM
                             [**2149-4-12**]  04:20 AM
                             [**2149-4-12**]  08:37 AM
                             [**2149-4-12**]  08:37 PM
                             [**2149-4-13**]  01:43 AM
                             [**2149-4-13**]  05:00 AM
                             [**2149-4-13**]  05:00 PM
                             [**2149-4-14**]  06:04 AM
                             [**2149-4-15**]  05:39 AM
                             [**2149-4-16**]  04:34 AM
   WBC
   11.1
   15.9
   8.7
   8.3
   7.8
   8.2
   Hct
   32.4
   40
   38.8
   34.1
   35.3
   35.3
   34.7
   Plt
   118
   148
   113
   108
   128
   155
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.8
   0.7
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 11777**]58
   122
   122
   106
   Other labs: PT / PTT / INR:14.0/26.9/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.7 %, Lymph:10.0 %,
   Mono:6.2 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **] negative.
   Imaging: No new.
   Microbiology: No growth.
   ECG: .
   Assessment
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia.
   Plan
   # Syncope
   Likely due to bradycardia. She has been presyncopal numerous times
   recently, suggestive of intermittent heart block. EKG significant for
   large voltages and prolonged QRS, normal PR, suggesting Hisian disease.
   EP had planned to place a pacer, but she became febrile and
   hypotensive. Temp. tranvenous pacing has not been needed since arrival
   although there have been intermittent pacer spikes on tele. EP will
   hold off on ICD given fever, hypotension.  Hypothyroidism rules out by
   labs, toxicity by basic tox screen (at least partially ruled out),
   Rickettsial unlikely based on return of sinus rhythm without
   bradycardia.
   - maintain temporary pacing wire and subclavian line until pt gets
   pacemaker (check in today with EP to see if can be removed)
   - Continue to appreciate EP input
   - Monitor on tele
   - Avoid nodal blocking agents
   - Discuss with EP re pacer placement so we can move forward for
   extubation
   .
   # Respiratory failure
   Intubated given hypoxia and need to place lines. Has been difficult to
   manage respiratory failure
 by giving enough sedation to prevent
   movement, have also been suppressing respiration. No evidence of
   infection yet. Likely OSA airway and obesity respiratory failure making
   respiratory depression during sedation much greater.
   - Try precedex for sedation for EP procedure which will help with
   agitation and less likely hypotension
 later pharmacy thought
   post-procedure would be preferable (comment in tomorrow
s overnight
   events)
   - Follow cultures
   - Retry PSV daily today with increased PEEP, follow gas.
   - Will likely need BiPAP or CPAP after extubation given anatomical
   considerations.
   .
   # Delirium: Likely medication and ICU induced. Pancultures remain
   negative. Morphine excessively high when compared to her converted home
   regimen.
   - Controlling with haldol PRN
   - Try to wean versed and morphine
   - Tylenol and keorolac to reduce opioid requirement
   - Consider repeating cultures
   - Precedex instead of versed and morphine for sedation
   # Hypotension
   Resolved now. Actually slightly hypertensive. Likely was very
   pre-renal/depleted and pressure likely high because of steroid stress
   dose. Septic physiology no longer present, but given improvement on
   [**Last Name (LF) **], [**First Name3 (LF) 116**] continue [**First Name3 (LF) **] for course.
   - Follow CVP and keep around 16 (this probe is not likely [**Location (un) 103**]
   accurately)
   - Give fluids to support CVP
   - Obtain mixed venous blood gas and simultaneous arterial blood gas
   - Wean sedation as possible given above
   - continue vanc/cefepime/flagyl, consider broadening coverage if
   further suspicion of infection.
   .
   # Leukocytosis
   Resolving now. Presently on vancomycin and cefepime. Neutrophilia and
   leukocytosis, fever, hypotension. Together concerning for sepsis/occult
   infection. Could well be Gram negative sepsis. Recrudescence of
   lymphoma seems unlikely. Less suspicious for infection now, but doing
   well and as a team decided to continue [**Location (un) **] for course of 7 days.
   - Consider Port in place for 17 years
   - Consider endocarditis given conduction abnormalities
   - F/u blood cultures and repeat with mycolytic bottles
   - Continue agressive fluid therapy
   - Cultures have been negative to date
   .
   # Enzyme leak
   LDH could be cardiac, CK partially cardiac and TropT obviously so.
   TropT and CKMB trending down now, so we attribute this to pacing in
   context of hypotension and hypoxia.
   - Follow
   # Elevated t bili: Do not have a source for sepsis.  Biliary infection
   also possible. Most likely secondary to hemolysis within hematoma in
   neck.
   # Anemia: Hct drop from 40 to 32.  Elevated direct bili and decreased
   haptoglobin.  Consider DIC in septic picture. Most likely dilutional.
   Haptoglobin low in context of neck hematoma.
   - f/u fibrinogen, fdp, and smear
   .
   # thrombocytopenia: Consider consumption from DIC
   - continue to trend
   .
   # S/p fall
   C-spine and head clear per OSH read.
   .
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive.
   - [**Doctor First Name **], ESR, CRP, complement
   .
   # FEN: None.
   .
   # ACCESS: PIV, RIJ CVL, R SCCVL (just temp pacer wires), lost A-line
   .
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with oxycodone PO
   -Bowel regimen with colace and senna
   .
   # CODE full - confirmed with husband
   .
   # COMM: [**Name (NI) **] and husband, [**Name (NI) 118**]
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2149-4-10**] 04:26 PM
   PA Catheter - [**2149-4-11**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2149-04-17 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2149-4-16**] 11:00 AM
   **To EP lab for permanent pacemaker procedure***
 PA CATHETER - STOP [**2149-4-16**] 04:33 PM
 CORDIS/INTRODUCER - STOP [**2149-4-16**] 07:00 PM
 SPUTUM CULTURE - At [**2149-4-17**] 02:00 AM
   - QTc 496 on EKG Therefore no haloperidol since this a.m.
   - Sedation increased and has been adequate today
   - Pt. had PPM placed. Swan removed. EP prefers no additional central
   line d/t hematoma & risk of infection. Rec cont. abx through [**4-18**]
   - Lyme titer added on per outpt rheumatology recs
   - Husband wants to be present when pt is extubated
   - Central line pulled after morning labs
   - Repleted K, Ph, Ca at 6:30 a.m.
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-16**] 08:00 PM
   Cefipime - [**2149-4-17**] 03:15 AM
   Metronidazole - [**2149-4-17**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Morphine Sulfate - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-16**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-17**] 12:00 AM
   Midazolam (Versed) - [**2149-4-17**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-17**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 63 (60 - 93) bpm
   BP: 116/51(65) {105/41(58) - 156/93(99)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.5 kg (admission): 122.4 kg
   Height: 63 Inch
    CVP: 48 (20 - 48)mmHg
   PAP: (47 mmHg) / (27 mmHg)
   Total In:
                                                                  2,238 mL
                                                                    898 mL
   PO:
   TF:
                                                                    212 mL
                                                                    394 mL
   IVF:
                                                                  1,726 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    372 mL
   Urine:
                                                                  1,270 mL
                                                                    372 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 238 (238 - 238) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.2 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 9.1 L/min
   Physical Examination
   General: morbidly obese woman
   HEENT: Pupils symmetrically and markedly dilated, ears clear, tube in
   place, cannot inspect OP
   Neck: Hematoma and echymosis on right lateral neck (later
 swan ganz
   in place in right IJ), very thick neck, cannot evaluate JVP.
   Cardiac: Difficult to auscultate due to ventilator and habitus,
   regular.
   Lungs: Symmetric air entry anteriorly with some transmitted upper
   airway sound and ventilator noise.
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm
   Skin: Echymosis on neck, [**Female First Name (un) 444**] under panus and breasts.
   Pulses: Peripheral pulses barely palpable in UEs, but ulnar and radial
   arteries were Dopplerable bilaterally.Good dorsalis pedis pulses.
   Neurologic: Able to answer simple questions appropriately. Very
   sedated. Little spontaneous movement. Opens eyes to voice. CN II, III,
   IV, VI intact. Difficult to evaluate others.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   11.1 g/dL
   98 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   15 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2149-4-12**]  04:20 AM
                             [**2149-4-12**]  08:37 AM
                             [**2149-4-12**]  08:37 PM
                             [**2149-4-13**]  01:43 AM
                             [**2149-4-13**]  05:00 AM
                             [**2149-4-13**]  05:00 PM
                             [**2149-4-14**]  06:04 AM
                             [**2149-4-15**]  05:39 AM
                             [**2149-4-16**]  04:34 AM
                             [**2149-4-17**]  04:09 AM
   WBC
   15.9
   8.7
   8.3
   7.8
   8.2
   10.8
   Hct
   40
   38.8
   34.1
   35.3
   35.3
   34.7
   33.0
   Plt
   148
   113
   108
   128
   155
   196
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.8
   0.7
   0.6
   TCO2
   24
   Glucose
   140
   180
   158
   122
   122
   106
   98
   Other labs: PT / PTT / INR:14.1/29.6/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.7 %, Lymph:10.0 %,
   Mono:6.2 %, Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable
   Plan
   # Syncope and bradycardia
   Likely due to bradycardia. Appears to have age-related Hisian disease
   (based on now prolonged QRS). Not consistent with hypothyroidism (TSH
   slightly suppressed T4 normal), Rickettsial disease (spontaneously
   recovered), myocardial infiltration (large voltages on EKG) or drug
   toxicity (as far as we know). EP placed permanent pacemaker [**2149-4-16**] and
   removed central line. Continue to appreciate EP input
   - EP prefers no additional central line d/t hematoma & risk of
   infection.
   - continue antibiotics through [**4-18**]
   - Monitor on tele
   - Avoid nodal blocking agents
   # Managing sedation during intubation and in perioperative period.
   Has been taking very large doses of Versed, morphine and haloperidol.
   All of these partition into lipid, so these doses are not surprising
   given the likely volume of distribution in this patient. The maximum
   dose of haloperidol is about 100 mg PO daily. Pt am EKG showed
   prolonged Qtc. Therefore stopped.
   - wean from Versed while increasing Presedex for easier (we hope)
   extubation.
   - Turn off Versed and start Presedex infusion (without bolus at around
   0.7 mcg/kg/hr, increasing to 1.4 as needed)
   -  Presedex can be run for a few hours while other agents clear,
   perhaps 8 hours
   - Presedex can be turned off for extubation (clears rapidly)
   # Respiratory failure
   Secondary to obstructive anatomy, obese anterior wall with poor
   compliance and reduced drive with this degree of sedation. Will manage
   sedation as above to facilitate extubation.
   - Retry PSV daily today with increased PEEP, follow gas.
   - Switch to Presedex today as above
   - Will likely need BiPAP or CPAP after extubation given anatomical
   considerations.]
   - pulmonary rec
s cut ET tube by 3 inches to lessen airway ressistence
   - wean steroids as quickly as possible
   # Hypotension
   Resolved now.
   # Leukocytosis
   Resolving now. Presently on vancomycin and cefepime, with flagyl.
   Cultures all negative thus far. Course completed
   - continue abx through 4/9 per EP recs
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was treding down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative. Questionable.
   - Talk to PCP
   # FEN: None for now, pending procedure (was on tube feeds at 35 cc/hr)
   # ACCESS: PIV, RIJ CVL, R SCCVL (just temp pacer wires), lost A-line
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with oxycodone PO
   -Bowel regimen with colace and senna
 ALTERATION IN NUTRITION
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART BLOCK, COMPLETE (CHB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2149-4-17**] 05:14 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2149-4-11**] 05:00 PM
   18 Gauge - [**2149-4-16**] 03:00 PM
   20 Gauge - [**2149-4-16**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-04-18 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2149-4-17**] 02:10 PM
   PAC DCd [**4-16**], cordis remains
   - d/c'd reglan, wrote for home dose of prednisone starting tomorrow
   - started morphine 1 mg gtt for home pain regimen equivalent
   - did well with precedex
   - got lasix 20 iv x 3 and started gtt
   - EP: antibx x 48 hrs
   - continued vanc, stopped cefepime/flagyl
   - repleated K, mg, and phos at 3 am
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Haldol (Oral) (Haloperidol)
   QTC Prolongatio
   Last dose of Antibiotics:
   Cefipime - [**2149-4-17**] 03:15 AM
   Metronidazole - [**2149-4-17**] 04:00 AM
   Vancomycin - [**2149-4-17**] 10:46 PM
   Infusions:
   Morphine Sulfate - 1 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Dexmedetomidine (Precedex) - 0.08 mcg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-17**] 09:03 AM
   Furosemide (Lasix) - [**2149-4-17**] 08:20 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-18**] 12:00 AM
   Morphine Sulfate - [**2149-4-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-18**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 60 (60 - 84) bpm
   BP: 160/68(89) {106/51(64) - 181/125(149)} mmHg
   RR: 21 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.5 kg (admission): 122.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,173 mL
                                                                    757 mL
   PO:
             200 mL
   TF:
                                                                    598 mL
                                                                    210 mL
   IVF:
                                                                  1,495 mL
                                                                    347 mL
   Blood products:
   Total out:
                                                                  6,362 mL
                                                                  3,700 mL
   Urine:
                                                                  6,362 mL
                                                                  3,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,189 mL
                                                                 -2,943 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 362 (346 - 490) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 11.7 L/min
   Physical Examination
   General: morbidly obese woman, alert to verbal but not responding to
   commands
   HEENT: tube in place, cannot inspect OP
   Neck: Hematoma and echymosis on right lateral neck, IJ in place without
   swan ganz
   Cardiac: Difficult to auscultate due to ventilator and habitus,
   regular.
   Lungs: Symmetric air entry anteriorly with some transmitted upper
   airway sound and ventilator noise.
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm
   Skin: Echymosis on neck
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   12.0 g/dL
   128 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.1 mEq/L
   15 mg/dL
   102 mEq/L
   141 mEq/L
   35.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2149-4-12**]  08:37 PM
                             [**2149-4-13**]  01:43 AM
                             [**2149-4-13**]  05:00 AM
                             [**2149-4-13**]  05:00 PM
                             [**2149-4-14**]  06:04 AM
                             [**2149-4-15**]  05:39 AM
                             [**2149-4-16**]  04:34 AM
                             [**2149-4-17**]  04:09 AM
                             [**2149-4-17**]  04:42 PM
                             [**2149-4-18**]  01:37 AM
   WBC
   8.7
   8.3
   7.8
   8.2
   10.8
   10.9
   Hct
   34.1
   35.3
   35.3
   34.7
   33.0
   35.5
   Plt
   113
   108
   128
   155
   196
   232
   Cr
   0.7
   0.6
   0.6
   0.6
   0.8
   0.7
   0.6
   0.7
   0.8
   TCO2
   24
   Glucose
   180
   158
   122
   122
   106
   98
   123
   128
   Other labs: PT / PTT / INR:14.0/24.9/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.7 %, Lymph:10.0 %,
   Mono:6.2 %, Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable
   Plan
   # Syncope and bradycardia
   Likely due to bradycardia. Appears to have age-related Hisian disease
   (based on now prolonged QRS). Not consistent with hypothyroidism (TSH
   slightly suppressed T4 normal), Rickettsial disease (spontaneously
   recovered), myocardial infiltration (large voltages on EKG) or drug
   toxicity (as far as we know). EP placed permanent pacemaker [**2149-4-16**] and
   removed central line. Continue to appreciate EP input
   - EP prefers no additional central line d/t hematoma & risk of
   infection.
   - continue antibiotics through [**4-18**]
   - Monitor on tele
   - Avoid nodal blocking agents
   # Managing sedation during intubation and in perioperative period.
   Has been taking very large doses of Versed, morphine and haloperidol.
   All of these partition into lipid, so these doses are not surprising
   given the likely volume of distribution in this patient. The maximum
   dose of haloperidol is about 100 mg PO daily. Pt am EKG showed
   prolonged Qtc. Therefore stopped.
   - Turn off Versed and start Presedex infusion (without bolus at around
   0.7 mcg/kg/hr, increasing to 1.4 as needed)
   - Presedex can be run for a few hours while other agents clear, perhaps
   8 hours
   - Presedex can be turned off for extubation (clears rapidly)
   # Respiratory failure
   Secondary to obstructive anatomy, obese anterior wall with poor
   compliance and reduced drive with this degree of sedation. Will manage
   sedation as above to facilitate extubation.
   - Retry PSV daily today with increased PEEP, follow gas.
   - Switch to Presedex today as above
   - Will likely need BiPAP or CPAP after extubation given anatomical
   considerations.]
   - pulmonary rec
s cut ET tube by 3 inches to lessen airway resistance
   - wean steroids as quickly as possible
   # Hypotension
   Resolved now.
   # Leukocytosis
   Resolving now. Presently on vancomycin and cefepime, with flagyl.
   Cultures all negative thus far. Course completed
   - continue abx through 4/9 per EP recs
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was treding down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative. Questionable.
   - Talk to PCP
   # FEN: Turned off for possible extubation today
   # ACCESS: PIV, Right IJ single lumen
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with oxycodone PO
   -Bowel regimen with colace and senna
 ALTERATION IN NUTRITION
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART BLOCK, COMPLETE (CHB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-4-16**] 03:00 PM
   20 Gauge - [**2149-4-16**] 05:41 PM
   22 Gauge - [**2149-4-17**] 10:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-04-19 07:26:00 Physician Resident Progress Note
Chief Complaint: Syncope
 context of bradycardic hypotension.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2149-4-18**] 10:50 AM
   [**4-18**]
   - extubated; okay from respiratory standpoint but twice developed mild
   stridor which improved with racemic epi
   - agitated in the afternoon and evening; trying to focus on
   non-pharmacologic interventions
   - can stop vanc tomorrow per EP
   [**4-17**]
   - d/c'd reglan, wrote for home dose of prednisone starting tomorrow
   - started morphine 1 mg gtt for home pain regimen equivalent
   - did well with precedex
   - got lasix 20 iv x 3 and started gtt
   - EP: antibx x 48 hrs
   - continued vanc, stopped cefepime/flagyl
   - repleated K, mg, and phos at 3 am
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Haldol (Oral) (Haloperidol)
   QTC Prolongatio
   Last dose of Antibiotics:
   Cefipime - [**2149-4-17**] 03:15 AM
   Metronidazole - [**2149-4-17**] 04:00 AM
   Vancomycin - [**2149-4-18**] 08:39 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2149-4-18**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-19**] 12:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-19**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.9
C (96.6
   HR: 87 (61 - 98) bpm
   BP: 147/55(74) {108/34(44) - 166/113(142)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.5 kg (admission): 122.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,234 mL
                                                                    495 mL
   PO:
                                                                    200 mL
             TF:
                                                                    210 mL
   IVF:
                                                                  1,644 mL
                                                                    495 mL
   Blood products:
   Total out:
                                                                  8,650 mL
                                                                  1,625 mL
   Urine:
                                                                  8,650 mL
                                                                  1,625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,416 mL
                                                                 -1,130 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 374 (374 - 515) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.47/45/114/33/8
   Ve: 7.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General: morbidly obese woman, alert to verbal and responsive to
   commands
   HEENT: tube in place, cannot inspect OP
   Cardiac: Difficult to auscultate due to ventilator and habitus,
   regular.
   Lungs: Symmetric air entry anteriorly with some transmitted upper
   airway sound and ventilator noise.
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm
   Skin: Echymosis on neck
   Neurologic: Trace somnolent, but much clearer, has been grasping at
   things. Able to answer simple questions
   appropriately.
   Labs / Radiology
   258 K/uL
   13.0 g/dL
   132 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   10 mg/dL
   93 mEq/L
   137 mEq/L
   37.9 %
   14.5 K/uL
        [image002.jpg]
                             [**2149-4-14**]  06:04 AM
                             [**2149-4-15**]  05:39 AM
                             [**2149-4-16**]  04:34 AM
                             [**2149-4-17**]  04:09 AM
                             [**2149-4-17**]  04:42 PM
                             [**2149-4-18**]  01:37 AM
                             [**2149-4-18**]  09:56 AM
                             [**2149-4-18**]  11:01 AM
                             [**2149-4-18**]  02:47 PM
                             [**2149-4-18**]  10:49 PM
   WBC
   8.3
   7.8
   8.2
   10.8
   10.9
   14.5
   Hct
   35.3
   35.3
   34.7
   33.0
   35.5
   37.9
   Plt
   108
   128
   155
   196
   232
   258
   Cr
   0.6
   0.8
   0.7
   0.6
   0.7
   0.8
   0.7
   0.6
   TCO2
   35
   34
   Glucose
   122
   122
   106
   98
   123
   128
   139
   132
   Other labs: PT / PTT / INR:13.2/28.5/1.1, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.7 %, Lymph:10.0 %,
   Mono:6.2 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: [**4-18**] AP CXR
   CLINICAL HISTORY: History lupus and hypothyroidism with syncope in a
   setting
   of bradycardia, extubated today. Evaluate for cause of acute
   respiratory
   distress. Evaluate for pulmonary edema.
   TECHNIQUE: Single portable upright AP chest radiograph was performed,
   compared with one performed two hours previously.
   FINDINGS: Right-sided dual-chamber cardiac pacemaker remains in place,
   with
   leads in unchanged position. Left-sided subclavian central venous
   catheter is
   unchanged.
   There is persistent consolidation at the left lung base, with air
   bronchogram
   seen, and pleural thickening/loculated effusion, with an unchanged
   morphology
   from the prior examination. Otherwise, the right hemithorax in the left
   upper
   lung zones appear clear. Cardiac and mediastinal silhouettes remain
   unchanged. No appreciable pulmonary edema.
   IMPRESSION: No appreciable interval change.
   Microbiology: Time Taken Not Noted     Log-In Date/Time: [**2149-4-17**] 3:05
   am
         SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2149-4-17**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.
      FUNGAL CULTURE (Preliminary):
         YEAST.
   ECG & telemetry
 2 short periods of supraventricular tachycardia in
   150s
 likely a. flutter given pacer-mediated tachycardia cannot be
   that fast (after interrogation clear that upper limit set to 120 BPM).
   Assessment and Plan
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable, s/p PPM placement. Now extubated.
   Plan
   # Syncope and bradycardia
   Likely due to bradycardia. Appears to have age-related Hisian disease
   (based on now prolonged QRS). Not consistent with hypothyroidism (TSH
   slightly suppressed T4 normal), Rickettsial or lyme disease
   (spontaneously recovered and lyme titers negative), myocardial
   infiltration (large voltages on EKG) or drug toxicity (as far as we
   know based on serum and urine tox., dig. level). EP placed permanent
   pacemaker [**2149-4-16**] and central line was removed shortly afterward.
   Continue to appreciate EP input
   - EP prefers no additional central line d/t hematoma & risk of
   infection, thus PIV
s only.
   - Stop vancomycin today
   - Monitor on tele
   - Avoid nodal blocking agents
   # Atrial Tachycardia
   Too fast for pacer-mediated tachycardia, therefore likely native SVT.
   [**Month (only) 11**] have been in context of choking on tablets.
   - Follow telemetry today
   - Do not give BB yet, per EP
   # Aftermath of Sedation, Pain Control
   Had been taking very large doses of Versed, morphine and haloperidol
   which distribute in adipose, so the patient likely has large stores.
   These medications did not adequately sedate her so she was weaned off
   versed and started on presodex.  This medication provided good
   sedation.  She was also continued on morphine at rate 1 mg/kg/hr which
   is roughly the opiate dose she was receiving at home with Percocet.
   Now sedation is stopped and she is extubated. We are trying to hold on
   further sedation for now given some delirium (it will likely take some
   time for drugs to clear given partitioning into lipid).
   - No sedation, only morphine or oxycodone on a PRN basis to manage pain
   # Respiratory failure
   Secondary to obstructive anatomy, obese anterior wall with poor
   compliance and reduced drive with sedation, but now extubated and
   breathing well on room air.
   - [**Month (only) 11**] need BiPAP or CPAP after extubation when sleeping given
   obstructive anatomy
   # Dysphagia and nutrition
   Patient vomited tablets immediately upon swallowing. She has an
   esophageal stricture and needs to crush tablets at home, per husband.
   She was being tube-fed until yesterday, at extubation. Her mental
   status is rapidly improving and she is calm this morning. Therefore,
   crush pills and try again. If fails, then re-consider NGT tomorrow
   critical medications will be missed (can give prednisone IV and others
   less critical or have a longer half-life)
   # Hypokalemia, Edema
   Due to lasix gtt and high diuresis last night in preparation for
   extubation.
   - Stop Lasix drip given large amount of diuresis over last day and that
   she is now equal to presenting weight (which we considered to be a
   partially desiccated state).
   - Replete with PO if necessary
   # Leukocytosis and Antimicrobial Prophylaxis
   Leukocytosis resolving now. Last day of vancomycin is today. Cultures
   all negative thus far. Stopped cefepime and flagyl per ID on [**4-16**].
   - Last day of vancomycin today, per EP (s/p PPM implantation)
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was trending down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative in context of treatment.
   - Talk to PCP
   # FEN: Turned off for possible extubation today
   # ACCESS:3  PIVs, but tenuous.  [**Month (only) 11**] need IV rn for acccess
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with morphine IV
   -Bowel regimen with colace and senna
   Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-4-16**] 05:41 PM
   22 Gauge - [**2149-4-18**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2149-04-20 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2149-4-19**] 09:00 AM
   - lasix gtt, morphine gtt off, vanco off
   - SBP dropped to 90 when sat up
   - Sitting in chair without restraints
   - Discovered that patient needs to crush pills at baseline, started
   doing this - she still refused some
   - Given long half-life of most meds, held on upsetting her (she was
   quite peaceful) by doing NGT, hoping that she might clear enough
   overnight that she can tolerate medications.
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Haldol (Oral) (Haloperidol)
   QTC Prolongatio
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-18**] 08:39 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2149-4-19**] 11:45 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-20**] 01:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-20**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36
C (96.8
   HR: 95 (82 - 97) bpm
   BP: 149/53(74) {95/42(65) - 163/114(122)} mmHg
   RR: 31 (16 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.5 kg (admission): 122.4 kg
   Height: 63 Inch
                  Total In:
                                                                    814 mL
                  PO:
                  TF:
   IVF:
                                                                    814 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                     65 mL
   Urine:
                                                                  2,440 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,626 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///31/
   Physical Examination
   General: morbidly obese woman, alert to verbal and responsive to
   commands
   HEENT: nasal cannula
   Cardiac: Difficult to auscultate due to habitus, regular.
   Lungs: Symmetric air entry anteriorly but poor auscultation as above
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities warm Left > Right
   Skin: Echymosis on neck
   Neurologic: Alert, responsive, somewhat confused during the night.
   This am could not state month, but oriented to person, place, year, and
   president of US.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   328 K/uL
   12.1 g/dL
   95 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   12 mg/dL
   95 mEq/L
   141 mEq/L
   36.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2149-4-17**]  04:09 AM
                             [**2149-4-17**]  04:42 PM
                             [**2149-4-18**]  01:37 AM
                             [**2149-4-18**]  09:56 AM
                             [**2149-4-18**]  11:01 AM
                             [**2149-4-18**]  02:47 PM
                             [**2149-4-18**]  10:49 PM
                             [**2149-4-19**]  12:25 PM
                             [**2149-4-19**]  02:15 PM
                             [**2149-4-20**]  03:58 AM
   WBC
   10.8
   10.9
   14.5
   14.1
   15.8
   Hct
   33.0
   35.5
   37.9
   38.4
   36.2
   Plt
   196
   232
   258
   314
   328
   Cr
   0.6
   0.7
   0.8
   0.7
   0.6
   0.6
   0.6
   TCO2
   35
   34
   Glucose
   98
   123
   128
   139
   132
   114
   95
   Other labs: PT / PTT / INR:14.2/38.1/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.7 %, Lymph:10.0 %,
   Mono:6.2 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable, s/p PPM placement. Now extubated.
   Plan
   # Syncope and bradycardia
   Likely due to bradycardia. Appears to have age-related Hisian disease
   (based on now prolonged QRS). Not consistent with hypothyroidism (TSH
   slightly suppressed T4 normal), Rickettsial or lyme disease
   (spontaneously recovered and lyme titers negative), myocardial
   infiltration (large voltages on EKG) or drug toxicity (as far as we
   know based on serum and urine tox., dig. level). EP placed permanent
   pacemaker [**2149-4-16**] and central line was removed shortly afterward.
   Continue to appreciate EP input
   - Stopped vancomycin yesterday
   - Monitor on tele
   - Avoid nodal blocking agents
   - f/u in [**Hospital **] clinic as outpatient
   # Atrial Tachycardia
   Too fast for pacer-mediated tachycardia, therefore likely native SVT.
   [**Month (only) 11**] have been in context of choking on tablets.  No events in last 24
   hrs
   - Follow telemetry today
   - Do not give BB yet, per EP
   # Aftermath of Sedation, Pain Control
   Had been taking very large doses of Versed, morphine and haloperidol
   which distribute in adipose, so the patient likely has large stores.
   These medications did not adequately sedate her so she was weaned off
   versed and started on presodex.  This medication provided good
   sedation.  She was also continued on morphine at rate 1 mg/kg/hr which
   is roughly the opiate dose she was receiving at home with Percocet.
   Now sedation is stopped and she is extubated. We are trying to hold on
   further sedation for now given some delirium (it will likely take some
   time for drugs to clear given partitioning into lipid).  She was a bit
   disoriented last night.
   - No sedation, only morphine or oxycodone on a PRN basis to manage pain
   # Respiratory failure
   ressolved
   # Dysphagia and nutrition
   Patient vomited tablets immediately upon swallowing. She has an
   esophageal stricture and needs to crush tablets at home, per husband.
   She was being tube-fed until extubated. Her mental status is rapidly
   improving and she is calm this morning.
 attempt PO pills with applesauce and icecream.  If difficulty will
   need to consider NGT for nutrition
   # dark urine:
   Pt was aggressively diuresed prior to extubation.  Although creatinine
   is stable, urine appears very concentrated and output has decreased.
   Pt has likely been overdiuresed.
   - give 500 cc IVF (in form of potassium chloride which needs to be
   repleted anyway)
   - urine lytes and UA for specific gravity
   # Hypokalemia, Edema
   Due to lasix gtt and high diuresis in preparation for extubation.
   Ptoassium was repleted and lasix gtt stopped.
   - Replete with IV potassium which contains 500 cc IVF
   # Leukocytosis and Antimicrobial Prophylaxis
   Patient completed vancomycin [**2149-4-19**] per EP and stopped cefepime and
   flagyl per ID on [**4-16**].  Cultures all negative thus far.  However, WBC
   trending up.  No fevers documented.
   - continue to monitor fever curve and WBC
   Resolved/inactive issues:
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was trending down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative in context of treatment.
   - restarted home dose prednisone
   # FEN: attempt PO as above with applesauce.  Will consider NGT.
   # ACCESS:  22 g PIV
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with morphine IV if no PO, vs oxycodone PO
   -Bowel regimen with colace and senna
   Code status: Full code
 ALTERATION IN NUTRITION
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART BLOCK, COMPLETE (CHB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-21**] 08:13 ------

2149-04-21 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: In summary a 63 yo woman with h/o lupus, morbid
   obesity and hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable, s/p PPM placement. Now extubated.
   24 Hour Events:
   - dark urine, sent for UA/lytes --> pre-renal FE Urea, lowish UOP so
   gave extra 500 cc NS x 3 on top of 500 cc holding potassium supp.
   - more cooperative, took meds
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendS[**Name (NI) 11868**]
   [**Name2 (NI) **]
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Haldol (Oral) (Haloperidol)
   QTC Prolongatio
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-18**] 08:39 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-21**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 78 (77 - 96) bpm
   BP: 155/63(84) {142/38(67) - 165/79(95)} mmHg
   RR: 32 (0 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.5 kg (admission): 122.4 kg
   Height: 63 Inch
             Total In:
                                                                  1,370 mL
                                                                    899 mL
   PO:
                                                                     90 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,280 mL
                                                                    869 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                     95 mL
   Urine:
                                                                    430 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    940 mL
                                                                    804 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General: morbidly obese woman, alert to verbal and responsive to
   commands
   HEENT: nasal cannula
   Cardiac: Difficult to auscultate due to habitus, regular.
   Lungs: Symmetric air entry anteriorly but poor auscultation as above
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities not warm to touch like yesterday
   Neurologic: Alert, responsive, oriented to person, place, and time
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   11.3 g/dL
   99 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.9 mEq/L
   12 mg/dL
   100 mEq/L
   141 mEq/L
   34.1 %
   14.7 K/uL
        [image002.jpg] ca 7.8   mg 2.1   phos 2.2   INR 1.2
                             [**2149-4-17**]  04:42 PM
                             [**2149-4-18**]  01:37 AM
                             [**2149-4-18**]  09:56 AM
                             [**2149-4-18**]  11:01 AM
                             [**2149-4-18**]  02:47 PM
                             [**2149-4-18**]  10:49 PM
                             [**2149-4-19**]  12:25 PM
                             [**2149-4-19**]  02:15 PM
                             [**2149-4-20**]  03:58 AM
                             [**2149-4-21**]  03:11 AM
   WBC
   10.9
   14.5
   14.1
   15.8
   14.7
   Hct
   35.5
   37.9
   38.4
   36.2
   34.1
   Plt
   232
   258
   314
   328
   299
   Cr
   0.7
   0.8
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   35
   34
   Glucose
   123
   128
   139
   132
   114
   95
   99
   Other labs: PT / PTT / INR:13.7/26.3/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.0 %, Lymph:10.2 %,
   Mono:6.5 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   No imaging
   Assessment and Plan
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable, s/p PPM placement. Now extubated.
   Plan
   # Syncope and bradycardia
   Likely due to bradycardia. Appears to have age-related Hisian disease
   (based on now prolonged QRS). Not consistent with hypothyroidism (TSH
   slightly suppressed T4 normal), Rickettsial or lyme disease
   (spontaneously recovered and lyme titers negative), myocardial
   infiltration (large voltages on EKG) or drug toxicity (as far as we
   know based on serum and urine tox., dig. level).
   - Monitor on tele
   - f/u in [**Hospital **] clinic as outpatient
   # Aftermath of Sedation, Pain Control
   Sedation with versed, morphine, presodex is stopped and she is
   extubated. We are trying to hold on further sedation for now given some
   delirium (it will likely take some time for drugs to clear given
   partitioning into lipid).  She was still paranoid last night, but
   overall improved and slept well.
   - D/C sedation
   - change oxycodone to TID which is closer to home dose (can have PRNs
   if needed)
   # Dysphagia and nutrition
   Known esophageal stricture and needs to crush tablets at home, per
   husband. [**Name (NI) 1438**] to take soft PO yesterday.
 continue soft diet
   # dark urine:
   Pt was aggressively diuresed prior to extubation.  Although creatinine
   is stable, urine appeared very concentrated and output decreased.  Fena
   and Fe urea both pre-renal.  Gave 500 cc Bolus x 2 yesterday and urine
   output improved.
   - continue to trend creatinine
   - encourage PO intake
   # Leukocytosis and Antimicrobial Prophylaxis
   Patient completed vancomycin [**2149-4-19**] per EP and stopped cefepime and
   flagyl per ID on [**4-16**].  Cultures all negative thus far.
   - continue to monitor fever curve and WBC
   Resolved/inactive issues:
   # Hypokalemia: resolved. Likely from overdiuresis
   # Atrial Tachycardia:  resolved
   - Follow telemetry today
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was trending down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative in context of treatment.
   - restarted home dose prednisone
   # FEN: soft diet
   # ACCESS:  22 g PIV
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with Oxycodone, tylenol
   -Bowel regimen with colace and senna
   Code status: Full code
 ALTERATION IN NUTRITION
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART BLOCK, COMPLETE (CHB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Comments: soft diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2149-4-18**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-22**] 10:43 ------

2149-04-22 07:50:00 Physician Resident Progress Note
Chief Complaint: Syncope attributed to bradycardia (heart block) and
   hypotension.
   24 Hour Events:
   - ordered S and S consult for RN concern of aspiration of meds this am
   - mildly hypertensive in the afternoon; restarted home propranolol
   - mental status noted to be much improved
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Haldol (Oral) (Haloperidol)
   QTC Prolongatio
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 64 (61 - 86) bpm
   BP: 128/38(61) {126/38(61) - 173/106(111)} mmHg
   RR: 24 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 122.4 kg
   Height: 63 Inch
                  Total In:
                                                                  1,269 mL
                  PO:
                                                                    330 mL
                  TF:
   IVF:
                                                                    939 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    420 mL
   Urine:
                                                                    620 mL
                                                                    420 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    499 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General: morbidly obese woman, alert to verbal and responsive to
   commands
   HEENT: nasal cannula
   Cardiac: Difficult to auscultate due to habitus, regular.
   Lungs: Symmetric air entry anteriorly but poor auscultation as above
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities not warm to touch like yesterday
   Neurologic: Alert, responsive, oriented to person, place, and time
   Labs / Radiology
   358 K/uL
   11.2 g/dL
   99 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.9 mEq/L
   12 mg/dL
   100 mEq/L
   141 mEq/L
   34.3 %
   14.4 K/uL
        [image002.jpg]
                             [**2149-4-18**]  01:37 AM
                             [**2149-4-18**]  09:56 AM
                             [**2149-4-18**]  11:01 AM
                             [**2149-4-18**]  02:47 PM
                             [**2149-4-18**]  10:49 PM
                             [**2149-4-19**]  12:25 PM
                             [**2149-4-19**]  02:15 PM
                             [**2149-4-20**]  03:58 AM
                             [**2149-4-21**]  03:11 AM
                             [**2149-4-22**]  06:22 AM
   WBC
   10.9
   14.5
   14.1
   15.8
   14.7
   14.4
   Hct
   35.5
   37.9
   38.4
   36.2
   34.1
   34.3
   Plt
   232
   258
   314
   328
   299
   358
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   35
   34
   Glucose
   128
   139
   132
   114
   95
   99
   Other labs: PT / PTT / INR:14.1/33.3/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.0 %, Lymph:10.2 %,
   Mono:6.5 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR [**4-21**]
   CHEST, PORTABLE AP SEMI-UPRIGHT: A right-sided dual-lead pacemaker/ICD
   appears unchanged. The heart is mildly enlarged. The mediastinal and
   hilar
   contours are similar. There is persistent opacity involving the left
   lower
   lobe and lingula with air bronchograms and loculated left lateral
   pleural
   opacity that may reflect effusions or scarring. A left subclavian
   central
   venous catheter again terminates in the lower superior vena cava.
   Allowing
   for differences in technique, there has been little if any change.
   Microbiology: Yeast in sputum only.
   ECG: Telemetry - no events.
   Assessment
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable, s/p PPM placement. Now extubated.
   Mental status improving, but still somewhat confused
 worse in the
   evening.
   Plan
   # Mental Status
   Fluent but not consistent and slightly inattentive. Overall improved,
   however. Likely still clearing medications given lipid distribution of
   sedatives.
   - Avoid any psychotropics
   - Continue oxycodone, however, given that this is part of her home
   regimen.
   - Continue fluoxetine given that this is part of her home regimen also.
   # Syncope and bradycardia
   Attributed to bradycardia with quickly resolving enzyme leak that is
   thought to be secondary to pacing and attempted transcutaneous pacing
   in setting of hypoxia and hypotension.
   - Monitor on tele
   - f/u in [**Hospital **] clinic as outpatient
   # Dysphagia and nutrition
   Known esophageal stricture and needs to crush tablets at home, per
   husband. [**Name (NI) 1438**] to take soft PO yesterday.
 continue soft diet
   # Dark Urine and Hematuria
   Likely pre-renal and hematuria may be due to her pulling on her Foley.
   - continue to trend creatinine
   - Monitor PO intake and add fluid if necessary
   - encourage PO intake
   - Follow hematuria for now
   # Leukocytosis and Antimicrobial Prophylaxis
   Some increased leukocytosis at present. Looks very well and low-grade
   temp only
 may relate to hematoma.
   - Blood culture again
   - Send urine
   - PA and lateral CXR
   Resolved/inactive issues:
   # Hypokalemia: resolved. Likely from overdiuresis
   # Atrial Tachycardia:  resolved
   - Follow telemetry today
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was trending down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative in context of treatment.
   - restarted home dose prednisone
   # FEN: soft diet
   # ACCESS:  22 g PIV
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with Oxycodone, tylenol
   -Bowel regimen with colace and senna
   Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2149-4-18**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10340**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-23**] 09:11 ------

2149-04-23 08:01:00 Physician Resident Progress Note
Chief Complaint: .
   24 Hour Events:
   [**4-22**]
   - PA & LAT CXR - persistent L effusion & atelectasis with ?airspace
   consolidation
   - pt. delerious at night stating she was 13 yo child, needed to stop
   the bath water from running, not married, not oriented.
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Haldol (Oral) (Haloperidol)
   QTC Prolongatio
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-22**] 09:58 PM
   Famotidine (Pepcid) - [**2149-4-22**] 09:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-23**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 63 (60 - 74) bpm
   BP: 154/53(76) {121/38(62) - 172/161(164)} mmHg
   RR: 20 (16 - 33) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 122.4 kg
   Height: 63 Inch
                  Total In:
                                                                    300 mL
                  PO:
                                                                    300 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    725 mL
   Urine:
                                                                  1,815 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,515 mL
                                                                   -725 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   General: morbidly obese woman, alert to verbal and responsive to
   commands
   HEENT: nasal cannula
   Cardiac: Difficult to auscultate due to habitus, regular.
   Lungs: Symmetric air entry anteriorly but poor auscultation as above
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities not warm to touch like yesterday
   Neurologic: Alert, responsive, oriented to person, place, and time
   Labs / Radiology
   358 K/uL
   11.2 g/dL
   86 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   9 mg/dL
   100 mEq/L
   142 mEq/L
   34.3 %
   14.4 K/uL
        [image002.jpg]
                             [**2149-4-18**]  01:37 AM
                             [**2149-4-18**]  09:56 AM
                             [**2149-4-18**]  11:01 AM
                             [**2149-4-18**]  02:47 PM
                             [**2149-4-18**]  10:49 PM
                             [**2149-4-19**]  12:25 PM
                             [**2149-4-19**]  02:15 PM
                             [**2149-4-20**]  03:58 AM
                             [**2149-4-21**]  03:11 AM
                             [**2149-4-22**]  06:22 AM
   WBC
   10.9
   14.5
   14.1
   15.8
   14.7
   14.4
   Hct
   35.5
   37.9
   38.4
   36.2
   34.1
   34.3
   Plt
   232
   258
   314
   328
   299
   358
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   35
   34
   Glucose
   128
   139
   132
   114
   95
   99
   86
   Other labs: PT / PTT / INR:14.1/33.3/1.2, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.0 %, Lymph:10.2 %,
   Mono:6.5 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: .
   Imaging: .
   Microbiology: .
   ECG: .
   Assessment and Plan
   Assessment
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable, s/p PPM placement. Now extubated.
   Mental status improving, but still somewhat confused
 worse in the
   evening.
   Plan
   # Mental Status
   Fluent but not consistent and slightly inattentive. Overall further
   improved from yesterday, however. Likely still clearing medications
   given lipid distribution of sedatives.
   - Avoid any psychotropics
   - Continue oxycodone, however, given that this is part of her home
   regimen.
   - Continue fluoxetine given that this is part of her home regimen also.
   # Syncope and bradycardia
   Attributed to bradycardia with quickly resolving enzyme leak that is
   thought to be secondary to pacing and attempted transcutaneous pacing
   in setting of hypoxia and hypotension.
   - Monitor on tele
   - f/u in [**Hospital **] clinic as outpatient
   # Dysphagia and nutrition
   Known esophageal stricture and needs to crush tablets at home, per
   husband. [**Name (NI) 1438**] to take soft PO yesterday.
 continue soft diet
   # Dark Urine and Hematuria
   Likely pre-renal and hematuria may be due to her pulling on her Foley.
   - continue to trend creatinine
   - Monitor PO intake and add fluid if necessary
   - encourage PO intake
   - Follow hematuria for now
   # Leukocytosis and Antimicrobial Prophylaxis
   Some increased leukocytosis at present. Looks very well and low-grade
   temp only
 may relate to hematoma.
   - Blood culture again
   - Send urine
   - PA and lateral CXR
   Resolved/inactive issues:
   # Hypokalemia: resolved. Likely from overdiuresis
   # Atrial Tachycardia:  resolved
   - Follow telemetry today
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was trending down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative in context of treatment.
   - restarted home dose prednisone
   ICU Care
   # FEN: soft diet
   # ACCESS:  22 g PIV
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with Oxycodone, tylenol
   -Bowel regimen with colace and senna
   Code status: Full code
   # Disposition
   Hope for acute rehab. Perhaps directly from CCU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2149-4-22**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   In Furtherance to Mental Status Changes
     Delirium with some preservation of attention, but characterized by
   delusions, circadian disturbance, fluctuation. Given that this has
   worsened over the last day and that there are prominent delusions and
   hallucination, we will contact Psychiatry for their perspective and
   suggestions about management.
   ------ Protected Section Addendum Entered By:[**Name (NI) 10376**] [**Last Name (NamePattern1) 10340**], MD
   on:[**2149-4-23**] 09:45 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10340**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-24**] 12:20 ------

2149-04-24 07:52:00 Physician Resident Progress Note
Chief Complaint: Syncope in context of bradycardia and hypotension.
   24 Hour Events:
   - Psych thought delerium was medication induced, recommended restarting
   home xanax 0.5mg PO HS, zyprexa PRN only for violent agitation, and CT
   head to r/o bleed (recent fall)
   - ct head prelim read: chronic sinusitis, no acute changes
   - required extra dose of oxycodone 7.5 mg
   - improved mental status this am
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Haldol (Oral) (Haloperidol)
   QTC Prolongatio
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-23**] 10:05 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-23**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-24**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 61 (60 - 69) bpm
   BP: 150/67(87) {129/42(67) - 179/112(117)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Wgt (current): 119 kg (admission): 122.4 kg
   Height: 63 Inch
                  Total In:
                                                                    220 mL
                  PO:
                                                                    220 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    530 mL
   Urine:
                                                                  2,175 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,955 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   General: morbidly obese woman, alert to verbal and responsive to
   commands
   HEENT: nasal cannula
   Cardiac: Difficult to auscultate due to habitus, regular.
   Lungs: Symmetric air entry anteriorly but poor auscultation as above
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities not warm to touch like yesterday
   Neurologic: Alert, responsive, oriented to person, place, and time
   Labs / Radiology
   414 K/uL
   11.2 g/dL
   96 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   7 mg/dL
   100 mEq/L
   140 mEq/L
   35.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2149-4-18**]  09:56 AM
                             [**2149-4-18**]  11:01 AM
                             [**2149-4-18**]  02:47 PM
                             [**2149-4-18**]  10:49 PM
                             [**2149-4-19**]  12:25 PM
                             [**2149-4-19**]  02:15 PM
                             [**2149-4-20**]  03:58 AM
                             [**2149-4-21**]  03:11 AM
                             [**2149-4-22**]  06:22 AM
                             [**2149-4-23**]  08:27 AM
   WBC
   14.5
   14.1
   15.8
   14.7
   14.4
   13.1
   Hct
   37.9
   38.4
   36.2
   34.1
   34.3
   35.3
   Plt
   258
   314
   328
   299
   358
   414
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   35
   34
   Glucose
   139
   132
   114
   95
   99
   86
   96
   Other labs: PT / PTT / INR:15.5/27.0/1.4, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:82.0 %, Lymph:10.2 %,
   Mono:6.5 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CT head.
   Microbiology: Yeast in urine and sputum.
   ECG: None.
   Assessment
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable, s/p PPM placement. Now extubated.
   Mental status improving, but still somewhat confused
 worse in the
   evening.
   Plan
   # Mental Status
   Fluent but not consistent and slightly inattentive. Overall further
   improved from yesterday, however. Likely still clearing medications
   given lipid distribution of sedatives.
   - Per psychiatry, xanax 0.5mg PO HS, zyprexa PRN only for violent
   agitation
   - Continue oxycodone, however, given that this is part of her home
   regimen.
   - Continue fluoxetine given that this is part of her home regimen also.
   # Hemoptysis
   Likely due to ETT
   - Follow
   # Syncope and bradycardia
   Attributed to bradycardia with quickly resolving enzyme leak that is
   thought to be secondary to pacing and attempted transcutaneous pacing
   in setting of hypoxia and hypotension.
   - Monitor on tele
   - f/u in [**Hospital **] clinic as outpatient
   # Dysphagia and nutrition
   Known esophageal stricture and needs to crush tablets at home, per
   husband. [**Name (NI) 1438**] to take soft PO yesterday.
 continue soft diet
   # Dark Urine and Hematuria
   Likely pre-renal and hematuria may be due to her pulling on her Foley.
   - continue to trend creatinine
   - Monitor PO intake and add fluid if necessary
   - encourage PO intake
   - Follow hematuria for now
   # Leukocytosis and Antimicrobial Prophylaxis
   Some increased leukocytosis at present. Looks very well and low-grade
   temp only
 may relate to hematoma.
   - Blood culture again
   - Send urine
   - PA and lateral CXR
   Resolved/inactive issues:
   # Hypokalemia: resolved. Likely from overdiuresis
   # Atrial Tachycardia:  resolved
   - Follow telemetry today
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was trending down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative in context of treatment.
   - restarted home dose prednisone
   ICU Care
   # FEN: soft diet
   # ACCESS:  22 g PIV
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with Oxycodone, tylenol
   -Bowel regimen with colace and senna
   Code status: Full code
   # Disposition
   Hope for acute rehab. Perhaps directly from CCU. Start screening today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2149-4-22**] 05:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10340**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2149-4-25**] 13:29 ------

2149-04-25 07:49:00 Physician Resident Progress Note
Chief Complaint: Syncope
   24 Hour Events:
   - researched [**Female First Name (un) 444**]; would not treat
   - no update from CM on rehab bed
   Allergies:
   Sulfonamides
   HA
   nausea
   wea
   Demerol (Injection) (Meperidine Hcl)
   Anaphylaxis;
   Haldol (Oral) (Haloperidol)
   QTC Prolongatio
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-25**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 63 (60 - 70) bpm
   BP: 125/67(77) {77/40(57) - 153/78(91)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 122.4 kg
   Height: 63 Inch
                  Total In:
                                                                    620 mL
                                                                    100 mL
   PO:
                                                                    180 mL
                                                                    100 mL
   TF:
                                                                    340 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    300 mL
   Urine:
                                                                  1,180 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///35/
   Physical Examination
   General: morbidly obese woman, alert to verbal and responsive to
   commands
   HEENT: nasal cannula
   Cardiac: Difficult to auscultate due to habitus, regular.
   Lungs: Symmetric air entry anteriorly but poor auscultation as above
   Abdomen: Obese, non-tender to deep palpation.
   Extremities: Trace edema, extremities not warm to touch like yesterday
   Neurologic: Alert, responsive, oriented to person, place, and time
   Labs / Radiology
   493 K/uL
   11.4 g/dL
   91 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.4 mEq/L
   12 mg/dL
   98 mEq/L
   140 mEq/L
   35.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2149-4-18**]  02:47 PM
                             [**2149-4-18**]  10:49 PM
                             [**2149-4-19**]  12:25 PM
                             [**2149-4-19**]  02:15 PM
                             [**2149-4-20**]  03:58 AM
                             [**2149-4-21**]  03:11 AM
                             [**2149-4-22**]  06:22 AM
                             [**2149-4-23**]  08:27 AM
                             [**2149-4-24**]  08:25 AM
                             [**2149-4-25**]  04:35 AM
   WBC
   14.5
   14.1
   15.8
   14.7
   14.4
   13.1
   13.8
   10.7
   Hct
   37.9
   38.4
   36.2
   34.1
   34.3
   35.3
   36.3
   35.2
   Plt
   258
   314
   328
   299
   358
   414
   415
   493
   Cr
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.7
   TCO2
   34
   Glucose
   132
   114
   95
   99
   86
   96
   95
   91
   Other labs: PT / PTT / INR:15.5/27.0/1.4, CK / CKMB /
   Troponin-T:458/7/0.56, ALT / AST:39/45, Alk Phos / T Bili:61/1.4,
   Amylase / Lipase:53/14, Differential-Neuts:77.2 %, Lymph:13.1 %,
   Mono:6.3 %, Eos:3.2 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:495 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No new.
   Microbiology: Yeast in urine and sputum.
   ECG: None.
   Assessment
   In summary a 63 yo woman with h/o lupus, morbid obesity and
   hypothyroidism who presented with syncope in the setting of
   bradycardia. Hemodynamically stable, s/p PPM placement. Now extubated.
   Mental status improving, but still somewhat confused
 worse in the
   evening.
   Plan
   # Mental Status
   Fluent but not consistent and slightly inattentive. Overall further
   improved from yesterday, however. Likely still clearing medications
   given lipid distribution of sedatives.
   - Per psychiatry, xanax 0.5mg PO HS, zyprexa PRN only for violent
   agitation
   - Continue oxycodone, however, given that this is part of her home
   regimen.
   - Continue fluoxetine given that this is part of her home regimen also.
   # Hemoptysis
   Likely due to ETT. Only one episode yesterday.
   - Follow
   # Syncope and bradycardia
   Attributed to bradycardia with quickly resolving enzyme leak that is
   thought to be secondary to pacing and attempted transcutaneous pacing
   in setting of hypoxia and hypotension. Based on EKG, may have been
   ischemic damage to septum, predisposing to block.
   - Monitor on tele
   - f/u in [**Hospital **] clinic as outpatient
   # Dysphagia and nutrition
   Known esophageal stricture and needs to crush tablets at home, per
   husband. [**Name (NI) 1438**] to take soft PO yesterday.
 continue soft diet
   # Dark Urine and Hematuria
   Likely pre-renal and hematuria may be due to her pulling on her Foley.
   - continue to trend creatinine
   - Monitor PO intake and add fluid if necessary
   - encourage PO intake
   - Follow hematuria for now
   # Leukocytosis and Antimicrobial Prophylaxis
   Some increased leukocytosis at present. Looks very well and low-grade
   temp only
 may relate to hematoma.
   - Blood culture again
   - Send urine
   - PA and lateral CXR
   Resolved/inactive issues:
   # Hypokalemia: resolved. Likely from overdiuresis
   # Atrial Tachycardia:  resolved
   - Follow telemetry today
   # Enzyme leak
   While paced when hypotensive and hypoxic. Was trending down when last
   checked.
   # Elevated t bili
   Likely from hematoma. Trending down when last checked. Do not have a
   source for sepsis.  Biliary infection unlikely.
   # Anemia
   Most likely dilutional. Haptoglobin low in context of neck hematoma.
   # Thrombocytopenia
   Considered consumption from DIC, but now stable
   - continue to trend
   # S/p fall
   C-spine and head clear per OSH read.
   # Lupus
   Manifested only as pleural effusions in past. Seen as inactive. [**Doctor First Name **] is
   negative in context of treatment.
   - restarted home dose prednisone
   ICU Care
   # FEN: soft diet
   # ACCESS:  22 g PIV
   # PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with Oxycodone, tylenol
   -Bowel regimen with colace and senna
   Code status: Full code
   # Disposition
   Hope for acute rehab. Likely discharge today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2149-4-22**] 05:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility